US08470866B2
A solution of afford (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid [5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-amide (53 mg, 0.11 mmol) in tetrahydrofuran (1 mL) was treated with a 1N aqueous hydrochloric acid solution (1 mL) and stirred at room temperature overnight. The reaction mixture was then concentrated in vacuo to remove the tetrahydrofuran and the remaining material was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic layer was separated and dried over magnesium sulfate, filtered to remove the drying agent and the filtrate concentrated in vacuo to afford (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid [5-((S)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-amide (43 mg, 88%) as a cream colored foam: [α]29D=+22.9° (c=0.14, methanol); HR-ES(+) m/e calcd for C21H23N4O4F3 [M+H]+ 453.1744, observed 453.1744; 1H NMR (400 MHz, DMSO-d6) δ 11.26 (s, 1H), 9.16 (s, 1H), 8.45 (d, J=1.07 Hz, 1H), 8.02 (dd, J=7.67, 11.29 Hz, 2H), 7.67-7.85 (m, 1H), 5.55 (d, J=4.90 Hz, 1H), 5.28 (dd, J=5.11, 10.65 Hz, 1H), 5.05 (d, J=18.33 Hz, 1H), 4.66-4.78 (m, 2H), 4.62 (q, J=4.90 Hz, 1H), 3.67 (td, J=5.30, 10.92 Hz, 1H), 3.55 (td, J=5.78, 11.24 Hz, 1H), 1.95-2.09 (m, 1H), 1.71-1.88 (m, 1H), 1.49 (br. s., 1H), 0.90-1.00 (m, 6H).

reactant | (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid [5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-amide | 0.11 mmol, 53 mg | CC1(OC[C@@H](O1)C=1N=CC(=NC1)NC([C@H](CC(C)C)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)=O)C | C24H27F3N4O4
reactant | hydrochloric acid | 1N, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (S)-4-methyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-pentanoic acid [5-((S)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-amide | 43 mg, 88% | O[C@H](CO)C=1N=CC(=NC1)NC([C@H](CC(C)C)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)=O | C21H23F3N4O4
